US09260411B2
(2S,5R)-1-(chloroacetyl)-5-ethynylpyrrolidine-2-carbonitrile
A 1-L three-necked round bottom flask equipped with a mechanical stirrer, N2-inlet and temperature probe was charged with the product of the product of Example 3 (40 g, 0.182 mol) as a solution in CH3CN (296.3 g). Additional CH3CN (58.1 g) was added to bring the total to 10 volumes. The temperature of the reaction was adjusted to 25° C. p-Toluenesulfonic acid (70.1 g, 0.363 mol) was added in portions to keep internal temperature below 30° C. CO2 gas evolution was fairly vigorous initially. Venting for CO2 gas was essential. The reaction was stirred overnight at 25° C. during which time the reaction became heterogeneous. Disappearance of the starting material was followed by HPLC and formation of the product was followed by GC. Upon complete deprotection, the reaction was cooled to 0° C. and N,N-diisopropylethylamine (67.8 nm, 399.5 mmol) was added slowly to keep internal temperature below 15° C. The reaction mixture was cooled back to 0° C. and chloroacetyl chloride (24.61 g, 217.9 mmol) was added slowly to keep internal temperature below 15° C. The reaction was mixed at 0° C. and stirred for 1 hour. The reaction mixture was slowly added to a cold solution of isopropyl acetate (400 mL) and 1M K2HPO4 (400 mL). The mixture was concentrated and distilled with isopropyl acetate (800 mL) and water (320 mL) to remove all of the CH3CN. The isopropyl acetate/CH3CN ratio was followed by GC. Upon complete removal of the CH3CN the layers were separated. The aqueous layer was extracted with isopropyl acetate (2×200 mL). The combined organic layers were washed with 1M K2HPO4 (200 mL). The organic layer was dried by repeated distillation from isopropyl acetate and the mixture was filtered to remove precipitated salts. The filtrate was concentrated and diluted with isopropyl alcohol several times. The solution was concentrated to about 90 mL, and stirred until solids began to form. Water (420 mL) was added slowly and the mixture was stirred for about 1 hour at room temperature and for about 1 hour at 0° C. The solid was collected by filtration and washed with cold isopropyl alcohol/water (65 mL) and dried in a vacuum oven for 48 hours at 40° C. to give 27.66 g (77.5% yield) of off-white solid. 1H NMR (400 MHz, CDCl3) δ ppm 2.23-2.52 (m, 4H) 2.56 (d, J=1.78 Hz, 1H) 4.31 (dd, J=12.9, 66.8 2H) 4.67-4.94 (in 2H).

reactant | p-Toluenesulfonic acid | 0.363 mol, 70.1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | CO2 | C(=O)=O | CO2
reactant | N,N-diisopropylethylamine | 399.5 mmol | C(C)(C)N(C(C)C)CC | C8H19N
reactant | chloroacetyl chloride | 217.9 mmol, 24.61 g | ClCC(=O)Cl | C2H2Cl2O
reactant | isopropyl acetate | 400 mL | C(C)(=O)OC(C)C | C5H10O2
reactant | K2HPO4 | 1M, 400 mL | OP(=O)([O-])[O-].[K+].[K+]
reactant | CH3CN | 296.3 g | CC#N | C2H3N
reactant | CH3CN | 58.1 g | CC#N | C2H3N
solvent | Water | 420 mL | O | H2O
product | (2S,5R)-1-(chloroacetyl)-5-ethynylpyrrolidine-2-carbonitrile | 27.66 g, 77.5% yield | ClCC(=O)N1[C@@H](CC[C@@H]1C#C)C#N | C9H9ClN2O
